US08476261B2
49B) Preparation of Ethyl 2-[1-(benzoylamino)cyclobutyl]-propionate
H2SO4 (3.90 mL, 73.2 mmol) was slowly added to a mixture of ethyl 2-(1-hydroxycyclobutyl)propionate (12.5 g, 72.6 mmol) and benzonitrile (75 mL) at room temperature. The mixture was stirred for 1 hour at room temperature, then 80° C. for 1 hour. The mixture was cooled in an ice-water bath and 2N NaOH solution was added until the mixture reached pH=7. The mixture was extracted with ethyl acetate, the combined organic extracts were dried over anhydrous Na2SO4, filtered, and concentrated in vacuo. Flash chromatography (AcOEt:Hexane=5:1) of the residue gave the title compound as a pale yellow solid (9.24 g, 46%). 1H-NMR (400 MHz, CDCl3) δ 1.25 (3H, t, J=7.3 Hz), 1.30 (3H, d, J=7.3 Hz), 1.73-1.87 (1H, m), 1.98-2.09 (2H, m), 2.21-2.32 (1H, m), 2.53-2.63 (1H, m), 2.84-2.94 (1H, m), 3.11 (1H, q, J=7.3 Hz), 4.08-4.20 (2H, m), 6.88 (1H, brs), 7.40-7.52 (3H, m), 7.75-7.80 (2H, m).

reactant | H2SO4 | 73.2 mmol, 3.90 mL | OS(=O)(=O)O | H2O4S
reactant | ethyl 2-(1-hydroxycyclobutyl)propionate | 72.6 mmol, 12.5 g | OC1(CCC1)C(C(=O)OCC)C | C9H16O3
reactant | NaOH | 2N | [OH-].[Na+]
reactant | benzonitrile | 75 mL | C(C1=CC=CC=C1)#N | C7H5N
product | Ethyl 2-[1-(benzoylamino)cyclobutyl]-propionate | 9.24 g, 46% | C(C1=CC=CC=C1)(=O)NC1(CCC1)C(C(=O)OCC)C | C16H21NO3
